US04326997
A suspension of lithium aluminum hydride (0.5 g, 0.013 mol) in anhydrous diethyl ether (100 mL) was stirred at 10° C. under nitrogen while 2,6-dimethyl-4-(3-methylbutyl)-2-cyclohexen-1-one (5.8 g, 0.03 mol) in anhydrous ether (10 mL) was added over a period of 30 minutes. The mixture was stirred at room temperature for 3 hours; then it was treated successively with water (0.5 mL), 15% NaOH solution (0.5 mL), and water (1.5 mL). The solution was filtered, dried and concentrated to give the crude alcohol. Short path distillation afforded 5.0 g of 2,6-dimethyl-4-(3-methylbutyl)-2-cyclohexen-1-ol, bp 90°-95° C. (1 mm), as a mixture of isomers by glc/ms (65.5%, 28%, and 5.5%). NMR (CDCl3) δ0.9-1.6 (19H, complex), 1.8 (3H, bs), 3.6 (1H, m), 5.4 (1H, m). IR (film) 3300, 1040, 1010 cm-1. MS (m/e) 196 (M+), 98, 82, 125, 107.

reactant | lithium aluminum hydride | 0.013 mol, 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,6-dimethyl-4-(3-methylbutyl)-2-cyclohexen-1-one | 0.03 mol, 5.8 g | CC=1C(C(CC(C1)CCC(C)C)C)=O | C13H22O
reactant | water | 0.5 mL | O | H2O
reactant | NaOH | 0.5 mL | [OH-].[Na+]
reactant | water | 1.5 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2,6-dimethyl-4-(3-methylbutyl)-2-cyclohexen-1-ol | 5.0 g | CC=1C(C(CC(C1)CCC(C)C)C)O | C13H24O
